US04010177
In the manner given in Example 47, 2'-chloro-5-nitro-2-[3-(hydroxymethyl)-5-[(dimethylamino)methyl]-4H-1,2,4-triazol-4-yl]benzophenone is treated first with methanesulfonyl chloride followed by propargylamine, to give 2'-chloro-5-nitro-2-[3-[[(2-propynyl)amino]methyl]-5-[(dimethylamino)methyl]-4H-1,2,4-triazol-4-yl]benzophenone.

reactant | 2'-chloro-5-nitro-2-[3-(hydroxymethyl)-5-[(dimethylamino)methyl]-4H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)[N+](=O)[O-])N1C(=NN=C1CN(C)C)CO)=O | C19H18ClN5O4
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | propargylamine | C(C#C)N | C3H5N
product | 2'-chloro-5-nitro-2-[3-[[(2-propynyl)amino]methyl]-5-[(dimethylamino)methyl]-4H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)[N+](=O)[O-])N1C(=NN=C1CN(C)C)CNCC#C)=O | C22H21ClN6O3
